US08614211B2
To a solution of (3R,4R)-4-(3,4-dimethoxybenzyl)-3-(4-hydroxy-3-methoxybenzyl)dihydrofuran-2(3H)-one (150 mg, 0.40 mmol, 1.0 eq) in DCM (15 mL) was added TEA (81 mg, 0.81 mmol, 2.0 eq) and DMAP (98 mg, 0.81 mmol, 2.0 eq), followed by N,N-dimethylcarbamoyl chloride (65 mg, 0.60 mmol, 1.5 eq). The mixture was stirred at rt for overnight, then sat. aq. NH4Cl (30 mL) was added. The reaction mixture was extracted with DCM (30 mL×3). The combined organic layers were dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash column chromatography (PE/EA=1/1, v/v) to afford 4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl dimethylcarbamate (110 mg, 61.6%). LRMS (M+H+) m/z calculated 444.2, found 443.9. 1H NMR (CDCl3, 400 MHz) δ 6.97 (d, 1H), 6.73-6.78 (m, 2H), 6.64-6.70 (m, 1H), 6.50-6.55 (m, 2H), 4.12-4.17 (m, 1H), 3.82-3.90 (m, 1H), 3.85 (s, 3H), 3.83 (s, 3H), 3.77 (s, 3H), 3.11 (s, 3H), 3.00 (s, 3H), 2.97 (d, 2H), 2.49-2.69 (m, 4H).

reactant | (3R,4R)-4-(3,4-dimethoxybenzyl)-3-(4-hydroxy-3-methoxybenzyl)dihydrofuran-2(3H)-one | 0.40 mmol, 150 mg, 1.0 eq | COC=1C=C(C[C@@H]2[C@H](C(OC2)=O)CC2=CC(=C(C=C2)O)OC)C=CC1OC | C21H24O6
reactant | N,N-dimethylcarbamoyl chloride | 0.60 mmol, 65 mg, 1.5 eq | CN(C(=O)Cl)C | C3H6ClNO
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.81 mmol, 98 mg, 2.0 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(((3R,4R)-4-(3,4-dimethoxybenzyl)-2-oxotetrahydrofuran-3-yl)methyl)-2-methoxyphenyl dimethylcarbamate | 110 mg, 61.6% | CN(C(OC1=C(C=C(C=C1)C[C@H]1C(OC[C@@H]1CC1=CC(=C(C=C1)OC)OC)=O)OC)=O)C | C24H29NO7
